US07601844B2
(R,Z)-Methyl N′-benzoyl-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)carbamimidothioate (47 mg, 0.1 mmol) was dissolved in THF (0.5 mL) and treated with anhydrous hydrazine (10 μL, 0.3 mmol). The reaction was stirred at rt. overnight. After this time, the THF was removed in vacuo and the resulting residue was dissolved in methanol and then purified by preparative HPLC to give (R)-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-2-(3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one (20 mg, 45%). MS found: 438 (M+H).

reactant | (R,Z)-Methyl N′-benzoyl-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)carbamimidothioate | 0.1 mmol, 47 mg | C(C1=CC=CC=C1)(=O)\N=C(\N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C)/SC | C25H30ClN3O2S
reactant | hydrazine | 0.3 mmol, 10 μL | NN | H4N2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-2-(3-phenyl-1H-1,2,4-triazol-5-ylamino)butan-1-one | 20 mg, 45% | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](C(C)C)NC1=NC(=NN1)C1=CC=CC=C1)=O | C24H28ClN5O
